US04728644
A homogeneous mixture obtained by grinding 5 g of 4,5-diamino-6-diethylamino-2-methylpyrimidine and 3.4 g of isonicotinic acid in a mortar is added to 110 ml of phosphorus oxychloride under stirring, and refluxed with heating for 3 hours. The reaction solution is concentrated and 180 ml of water is added to the residual oil. The aqueous solution is neutralized with an ammonia solution and the crystals precipitated are filtered and purified by column chromatography on silica gel with a mixture of chloroform and methanol (10:1) as an eluent. Recrystallization from methanol gives 2.3 g of 6-diethylamino-2-methyl-8-(4-pyridyl)purine, melting at 228°-230° C.

reactant | 4,5-diamino-6-diethylamino-2-methylpyrimidine | 5 g | NC1=NC(=NC(=C1N)N(CC)CC)C | C9H17N5
reactant | isonicotinic acid | 3.4 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
solvent | phosphorus oxychloride | 110 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-diethylamino-2-methyl-8-(4-pyridyl)purine | 2.3 g | C(C)N(C1=C2NC(=NC2=NC(=N1)C)C1=CC=NC=C1)CC | C15H18N6
